US04020076
A mixture of 158.6 g of p-chlorobenzylthio alcohol, 800 ml of tetrahydrofuran, 5 ml of triethylamine and 131.6 g of ethoxycarbonyl isothiocyanate was refluxed for 21/2 hours and was then concentrated to dryness. The residue was washed with petroleum ether to obtain 233 g of p-chlorobenzyl N-carbethoxy-dithiocarbamate melting at 80° C.

reactant | p-chlorobenzylthio alcohol | 158.6 g | ClC1=CC=C(CSO)C=C1 | C7H7ClOS
reactant | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
reactant | ethoxycarbonyl isothiocyanate | 131.6 g | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | p-chlorobenzyl N-carbethoxy-dithiocarbamate | 233 g | C(=O)(OCC)NC(SCC1=CC=C(C=C1)Cl)=S | C11H12ClNO2S2
